US09062048B2
Step B: 4-chloro-2,6-bis(trifluoromethyl)quinazoline
A mixture of 2,6-bis(trifluoromethyl)quinazolin-4-ol (200 mg, 0.666 mmol, prepared in the previous step), DMF (0.01 mL, 0.129 mmol) and diisopropylethylamine (0.17 mL, 0.986 mmol) suspended in dry DCM (10 mL) and treated dropwise with oxalyl chloride (0.11 mL, 1.26 mmol) under argon. After the addition, the reaction mixture was heated to reflux for 4 hours. After cooling to room temperature, the reaction was quenched by the cautious addition of potassium phosphate dibasic solution (20% w/w) and extracted with dichloromethane. The combined organic layers were washed with brine and dried over Na2SO4 and concentrated to yield the product as a white solid.

reactant | 2,6-bis(trifluoromethyl)quinazolin-4-ol | FC(C1=NC2=CC=C(C=C2C(=N1)O)C(F)(F)F)(F)F | C10H4F6N2O
reactant | DMF | 0.129 mmol, 0.01 mL | CN(C)C=O | C3H7NO
reactant | diisopropylethylamine | 0.986 mmol, 0.17 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | oxalyl chloride | 1.26 mmol, 0.11 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-chloro-2,6-bis(trifluoromethyl)quinazoline | ClC1=NC(=NC2=CC=C(C=C12)C(F)(F)F)C(F)(F)F | C10H3ClF6N2
